US09212187B2
Synthesis of trifluoromethanesulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl ester
A dichloromethane solution (50 ml) of 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(2.6 g) was cooled with ice. After adding of triethylamine(1.5 ml) to the solution, trifluoromethane sulfonic anhydride(1.9 ml) was added, and the mixture was stirred at room temperature for 4 hours. Triethylamine(0.75 ml) and trifluoromethane sulfonic anhydride(0.75 ml) were further added thereto, and the mixture was stirred at room temperature overnight. Water was added to the reaction liquid, followed by extraction by ethyl acetate. The organic layer was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=10:1→5:5). The purified product was condensed to dryness under reduced pressure to give the title compound (3.4 g) as a white solid (yield=86%).

reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 2.6 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 1.9 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Triethylamine | 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 0.75 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | Water | O | H2O
product | trifluoromethanesulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl ester | 3.4 g, yield=86% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H17F3N2O5S
